US06887896B1
(2E)-2-Fluoro-3-(4,4-dimethyl-6-n-propoxy-1-tert-butyl-3,4-dihydronaphthalen-7-yl)-2-butenol (Compound A-57)
As described in General Procedure G-1, ethyl (2E)-2-fluoro-3-(4,4 dimethyl-6-n-propoxy-1-tert-butyl-3,4-dihydronaphthalen-7-yl)-2-butenoate (Compound A-48, 0.044 g, 0.109 mmol) and diisobutylaluminum hydride (1.0 M in hexanes, 0.87 mL, 0.87 mmol) were reacted in THF (0.87 mL) to produce the title compound as an oil.

reactant | ethyl (2E)-2-fluoro-3-(4,4 dimethyl-6-n-propoxy-1-tert-butyl-3,4-dihydronaphthalen-7-yl)-2-butenoate | F\C(\C(=O)OCC)=C(/C)\C1=C(C=C2C(CC=C(C2=C1)C(C)(C)C)(C)C)OCCC | C25H35FO3
reactant | diisobutylaluminum hydride | 0.87 mmol, 1.0 M, 0.87 mL | [H-].C(C(C)C)[Al+]CC(C)C
solvent | THF | 0.87 mL | C1CCOC1 | C4H8O
product | (2E)-2-Fluoro-3-(4,4-dimethyl-6-n-propoxy-1-tert-butyl-3,4-dihydronaphthalen-7-yl)-2-butenol | F\C(\CO)=C(/C)\C1=C(C=C2C(CC=C(C2=C1)C(C)(C)C)(C)C)OCCC | C23H33FO2
